US08461209B2
(1) 5-(3,4-dimethoxybenzyl)-2,2-dimethyl-1,3-dioxane-4,6-dione
Under ice-cooling, to formic acid (20 mL) was added dropwise triethylamine (29.6 mL). Then, 3,4-dimethoxybenzaldehyde (9.22 g) and Meldrum's acid (8.00 g) were added under ice-cooling, and the mixture was stirred at room temperature for 18 hr. The reaction mixture was poured into a mixture of ice (80 g) and 1 mol/L hydrochloric acid (50 mL), and the precipitate was collected by filtration to give the title compound (14.4 g) as a white solid.

reactant | formic acid | 20 mL | C(=O)O | CH2O2
reactant | 3,4-dimethoxybenzaldehyde | 9.22 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | Meldrum's acid | 8.00 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | hydrochloric acid | 1 mol/L, 50 mL | Cl | ClH
solvent | triethylamine | 29.6 mL | C(C)N(CC)CC | C6H15N
product | 5-(3,4-dimethoxybenzyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | 14.4 g | COC=1C=C(CC2C(OC(OC2=O)(C)C)=O)C=CC1OC | C15H18O6
